US05698495
B. Preparation of 5-Methyl1-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy-2-nitrobenzene
5-Hydroxy-1-methyl-3-trifluoromethylpyrazole (8.30 g, 50 mmol) and powdered potassium carbonate (8.29 g, 60 mmol) were stirred together in dimethylsulfoxide (40 ml) for 30 minutes. 3-Fluoro-4-nitrotoluene (7.76 g, 50 mmol) was added and the mixture heated at 70° C. for 17 h, then cooled to room temperature. The mixture was partitioned between diethyl ether and water, the ethereal extract washed with water and brine, dried over magnesium sulfate, filtered and the filtrate evaporated. The residue was further purified by flash column chromatography over silica gel, and the desired fraction collected and triturated with hexane to give the desired product as a pale yellow solid (6.20 g), m.p. 88°-90° C.

reactant | 5-Hydroxy-1-methyl-3-trifluoromethylpyrazole | 50 mmol, 8.30 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | potassium carbonate | 60 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Fluoro-4-nitrotoluene | 50 mmol, 7.76 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 5-Methyl1-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy-2-nitrobenzene | 6.20 g | CC=1C=CC(=C(C1)OC1=CC(=NN1C)C(F)(F)F)[N+](=O)[O-] | C12H10F3N3O3
